US04198511
1,5-Dihydro-1,5-dioxo-4H-1-benzopyrano[3,4-b]pyridine-3-carboxylic acid
A suspension of 1,5-dihydro-1,5-dioxo-4H-1-benzopyrano[3,4-b]pyridine-3-carboxylic acid, methyl ester (10.0 g, 0.037 mole) in 5N hydrochloric acid (170 ml) is stirred at 100 for 16 hours under nitrogen. The reaction mixture is cooled. The product is filtered off, washed with water, with acetone and sucked dry. Recrystallization from dimethyl formamide-methanol gives white crystals (6.2 g, 65%), mp 265-268 (dec).

reactant | 1,5-dihydro-1,5-dioxo-4H-1-benzopyrano[3,4-b]pyridine-3-carboxylic acid, methyl ester | 0.037 mole, 10.0 g | O=C1C2=C(NC(=C1)C(=O)OC)C(OC1=C2C=CC=C1)=O | C14H9NO5
solvent | hydrochloric acid | 5N, 170 ml | Cl | ClH
product | 1,5-Dihydro-1,5-dioxo-4H-1-benzopyrano[3,4-b]pyridine-3-carboxylic acid | 6.2 g, 65% | O=C1C2=C(NC(=C1)C(=O)O)C(OC1=C2C=CC=C1)=O | C13H7NO5
